US09056874B2
(±)-N-((5-cyano-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1H-indol-4-yl)methyl)methanesulfonamide
The title compound was synthesized from a mixture of (±)-N-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)methanesulfonamide and (±)-N-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)methanesulfonamide as described in Example 64-B and 64-C. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.01 (s, 1H) 7.97 (br. s, 1H) 7.58-7.60 (m, 1H) 7.49 (m, 1H) 7.18 (t, J=2.78 Hz, 1H) 6.78 (s, 1H) 6.35-6.37 (m, 2H) 2.82 (s, 3H) 2.44 (s, 3H) 2.42 (s, 3H). HRMS calcd. for C20H19N6O2S (M+H)+ 394.1332. found 394.1332.

reactant | (±)-N-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)methanesulfonamide | C(#N)C1=CC2=C(N(C(=N2)C(NS(=O)(=O)C)C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C=C1 | C33H39N5O5S2Si
reactant | (±)-N-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)methanesulfonamide | C(#N)C=1C=CC2=C(N(C(=N2)C(NS(=O)(=O)C)C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C1 | C33H39N5O5S2Si
product | (±)-N-((5-cyano-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1H-indol-4-yl)methyl)methanesulfonamide | C(#N)C1=CC2=C(NC(=N2)C(NS(=O)(=O)C)C2=C3C=CNC3=C(C=C2C)C)C=C1 | C20H19N5O2S
